US08039500B2
Methyl 3-amino-2-(methylamino)benzoate
To a suspension of methyl 2-(methylamino)-3-nitrobenzoate (2.10 g, 10.0 mmol) in tetrahydrofuran (40 mL) was added palladium on carbon (210 mg), and the mixture was purged with hydrogen and stirred under balloon pressure hydrogen for 2 hr at room temperature. The catalyst was removed by filtration, and the filtrate was concentrated in vacuo to give the title compound (1.80 g, 10.0 mmol, 100%) as a pale yellow oil.

reactant | methyl 2-(methylamino)-3-nitrobenzoate | 10.0 mmol, 2.10 g | CNC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H10N2O4
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 210 mg | [Pd] | Pd
product | Methyl 3-amino-2-(methylamino)benzoate | 10.0 mmol, 1.80 g, 100% | NC=1C(=C(C(=O)OC)C=CC1)NC | C9H12N2O2
